US04912262
The reaction was carried out under Argon. Cuprous cyanide (5.0 g, 56.0 mmol) and anhydrous sodium iodide (15.6 g, 104 mmol) were stirred for 2 minutes in anhydrous acetonitrile (100 ml). The resulting solution was mixed with 2,4-dichlorobenzoyl chloride (10.96 g, 52.3 mmol) whereupon an orange precipitate formed. The mixture was stirred for 30 minutes at room temperature, filtered and concentrated in vacuo. The residue was taken up in dichloromethane and the resulting precipitate was filtered off. Concentration of the filtrate under reduce pressure gave a yellow solid which was recrystallised from 60°-80° C. b.p.t. petroleum ether to give 2,4-dichlorobenzoyl cyanide as cream coloured crystals (8.36 g, 80%), melting point 73°-74° C.

reactant | sodium iodide | 104 mmol, 15.6 g | [I-].[Na+]
reactant | 2,4-dichlorobenzoyl chloride | 52.3 mmol, 10.96 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2,4-dichlorobenzoyl cyanide | ClC1=C(C(=O)C#N)C=CC(=C1)Cl | C8H3Cl2NO
